US07074798B2
a) 4-[7-(2-Chlorophenyl)-3-carbonylmethyl-1-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester
4-[7-(2-Chlorophenyl)-3-methoxycarbonylmethyl-1-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (87 mg) was dissolved in methanol (2 ml), and 5N aqueous sodium hydroxide solution (0.2 ml) was added to the solution. Then, the mixture was stirred at room temperature for 2 hours. The mixture was neutralized with 1N hydrochloric acid, and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and filtered. The solvent was removed by distillation to give the title compound.

reactant | 4-[7-(2-Chlorophenyl)-3-methoxycarbonylmethyl-1-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 87 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1C1=C(C=CC=C1)Cl)=O)C)=O)CC(=O)OC | C24H29ClN6O6
reactant | sodium hydroxide | 5N, 0.2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 4-[7-(2-Chlorophenyl)-3-carbonylmethyl-1-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1C1=C(C=CC=C1)Cl)=O)C)=O)C=C=O | C23H25ClN6O5
